US05977029
3.8 g (10 mmol) of 5-chloro-6-(4-chlorophenyl)-4-hydroxy-3-(2,4,6-trimethylphenyl)-2-pyrone (Example I-a-1) are initially charged in 25 ml of ethyl acetate. At 20° C., 1.0 g (10 mmol) of triethylamine are added and a solution of 0.95 g (10 mmol) of methyl chloroformate in 10 ml of ethyl acetate is added dropwise at 0° C. The mixture is subsequently stirred at 20° C. for 20 h. Precipitated triethylamine hydrochloride is filtered off with suction and washed with ethyl acetate. The combined mother liquors are washed twice with 50 ml of half-concentrated sodium chloride solution each time, dried over magnesium sulphate and concentrated under reduced pressure. 4.0 g (92.4% of theory) of crude 5-chloro-6-(4-chlorophenyl)-4-methoxycarbonyloxy-(2,4,6-trimethylphenyl)-2-pyrone are obtained. Recrystallization from 50 ml of cyclohexane affords 3.1 g (72% of theory) of pure product which melts at 136-138° C.

reactant | 5-chloro-6-(4-chlorophenyl)-4-hydroxy-3-(2,4,6-trimethylphenyl)-2-pyrone | 10 mmol, 3.8 g | ClC=1C(=C(C(OC1C1=CC=C(C=C1)Cl)=O)C1=C(C=C(C=C1C)C)C)O | C20H16Cl2O3
reactant | triethylamine | 10 mmol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 10 mmol, 0.95 g | ClC(=O)OC | C2H3ClO2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 5-chloro-6-(4-chlorophenyl)-4-methoxycarbonyloxy-(2,4,6-trimethylphenyl)-2-pyrone | 4.0 g, 92.4% | ClC=1C(=C(C(OC1C1=CC=C(C=C1)Cl)=O)C1=C(C=C(C=C1C)C)C)OC(=O)OC | C22H18Cl2O5
